US07314937B2
2-Isopropyl-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline is prepared from 7-(3piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride (520 mg, 1.5 mmol), MP-CNBH3 (3.2 g, 7.5 mmol), and acetone (1.1 mL, 15 mmol) via a procedure substantially analogous to Procedure C except that the SCX column is not used in purification. The product (210 mg, 44% yld) is isolated as a clear oil. MS(ES+)317.2(M+H)+.

reactant | 7-(3piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride | 1.5 mmol, 520 mg | Cl.Cl.N1(CCCCC1)CCCOC1=CC=C2CCNCC2=C1
reactant | acetone | 15 mmol, 1.1 mL | CC(=O)C | C3H6O
product | 2-Isopropyl-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline | C(C)(C)N1CC2=CC(=CC=C2CC1)OCCCN1CCCCC1 | C20H32N2O
